### PR TITLE
Restriction Kleisli Category #1: Facts about Monads

### PR DESCRIPTION
**Pull request by Reijix**
As discussed in #473, here is the first part of the big PR factored out.

This PR introduces Kleisli triple notation, changes the bracketing of the commutative property in `Monad.Commutative`, adds helper lemmas to `Monad.Strong` and `Monad.Commutative` and finally adds frequently used properties of the combined monad strength for commutative monads in `Monad.Commutative.Properties`.

I thought about factoring out parts of the proofs in `Monad.Commutative.Properties`, however I don't think that this makes sense, since the proof of e.g. `M.F.₁ (id ⊗₁ M.F.₁ B⇐) ∘ M.F.₁ (id ⊗₁ σ) ≈ M.F.₁ (id ⊗₁ τ) ∘ M.F.₁ (id ⊗₁ B⇐)` (line 201)
is trivial, but lengthy due to multiple uses of `Functor.homomorphism` that are needed.
Of course if you still prefer it factored out I can do that.

### CODE REVIEW

File: src/Categories/Category/Construction/Kleisli.agda [hunk 1]
```diff
@@ -56,3 +57,28 @@ Kleisli {𝒞 = 𝒞} M = record
 
   identity²′ : {A : Obj} → (μ.η A ∘ F₁ (η.η A)) ∘ η.η A ≈ η.η A
   identity²′ = elimˡ M.identityˡ
+
+module TripleNotation {𝒞 : Category o ℓ e} (M : Monad 𝒞) where
```
Comment (JacquesCarette) [inline src/Categories/Category/Construction/Kleisli.agda:61]: I expected this module to define "notations for dealing with the triples version of Kleisli categories". Which it does... but doesn't export! Perhaps it should do that?

File: src/Categories/Monad/Commutative/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,282 @@
...
+    τ * ∘ σ ∘ (M.μ.η _ ⊗₁ id) ∘ (id ⊗₁ M.μ.η _)         ≈⟨ sym-assoc ○ ∘-resp-≈ʳ (sym ⊗.homomorphism ○ ⊗.F-resp-≈ (identityʳ , identityˡ)) ⟩ 
+    ψ ∘ (M.μ.η _ ⊗₁ M.μ.η _)                            ∎
+    where open TripleNotation M
+
+  -- Extra properties if C is symmetric
+module SymmetricProperties  {C : Category o ℓ e} {V : Monoidal C} (symmetric : Symmetric V) (CM : CommutativeMonad (Symmetric.braided symmetric)) where
+  open Category C
+  open Symmetric symmetric using (commutative) renaming (braided to BV)
+  open SymmetricProps symmetric
+  open BraidedProps.Shorthands BV renaming (σ to B; σ⇒ to B⇒; σ⇐ to B⇐)
```
Comment (JacquesCarette) [inline src/Categories/Monad/Commutative/Properties.agda:113]: you are defining the associator shorthands here (good) but not using them below?!? (not so good).

File: src/Categories/Monad/Commutative/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,282 @@
...
+    M.F.₁ associator.from ∘ τ * ∘ M.F.₁ ((M.F.₁ B⇒ ∘ τ ∘ B⇐) ⊗₁ id)
+      ≈˘⟨ refl⟩∘⟨ refl⟩∘⟨ (pullˡ (sym M.F.homomorphism ○ M.F.F-resp-≈ merge₁ˡ) ○ (sym M.F.homomorphism ○ M.F.F-resp-≈ (merge₁ˡ ○ ⊗.F-resp-≈ (assoc , refl)))) ⟩
+    M.F.₁ associator.from ∘ τ * ∘ M.F.₁ (M.F.₁ B⇒ ⊗₁ id) ∘ M.F.₁ (τ ⊗₁ id) ∘ M.F.₁ (B⇐ ⊗₁ id) 
+      ≈⟨ refl⟩∘⟨ extendʳ ((*∘F₁ ○ *-resp-≈ (τ.commute _)) ○ sym F₁∘*) ⟩ 
+    M.F.₁ associator.from ∘ M.F.₁ (B⇒ ⊗₁ id) ∘ τ * ∘ M.F.₁ (τ ⊗₁ id) ∘ M.F.₁ (B⇐ ⊗₁ id) 
+      ≈⟨ extendʳ hexagon₂' ○ ∘-resp-≈ʳ assoc²βε ⟩ 
+    M.F.₁ (id ⊗₁ B⇐) ∘ M.F.₁ associator.from ∘ M.F.₁ B⇒ ∘ M.F.₁ associator.from ∘ τ * ∘ M.F.₁ (τ ⊗₁ id) ∘ M.F.₁ (B⇐ ⊗₁ id) 
+      ≈⟨ refl⟩∘⟨ refl⟩∘⟨ refl⟩∘⟨ (pullˡ F₁∘* ○ (pullˡ (*∘F₁ ○ *-resp-≈ (assoc ○ τ-strength-assoc')) ○ sym (pullˡ *∘F₁))) ⟩ 
+    M.F.₁ (id ⊗₁ B⇐) ∘ M.F.₁ associator.from ∘ M.F.₁ B⇒ ∘ τ * ∘ M.F.₁ associator.from ∘ M.F.₁ (B⇐ ⊗₁ id) 
+      ≈⟨ (refl⟩∘⟨ refl⟩∘⟨ extendʳ (F₁∘* ○ *-resp-≈ (∘-resp-≈ˡ (M.F.F-resp-≈ (sym braiding-selfInverse)) ○ cancelˡ (sym M.F.homomorphism ○ M.F.F-resp-≈ inv-commutative ○ M.F.identity)) ○ sym *∘F₁)) ⟩
```
Comment (JacquesCarette) [inline src/Categories/Monad/Commutative/Properties.agda:195]: you're packing too much into some single proof lines.  Either explode into more steps, or define some lemmas please.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Generally excellent. A few things still need improved before it's fully ready.

File: src/Categories/Category/Construction/Kleisli.agda (hunk 1 above)
Comment (Reijix) [reply src/Categories/Category/Construction/Kleisli.agda:61]: Did you miss the `public` on line 65, or what do you mean?
I changed it to be more readable now

File: src/Categories/Monad/Commutative/Properties.agda (hunk 2 above)
Comment (Reijix) [reply src/Categories/Monad/Commutative/Properties.agda:113]: Those are the braidings I'm defining, but your point is valid, I've added the associator shorthands now, which shortens some lines immensely, thanks!

File: src/Categories/Category/Construction/Kleisli.agda (hunk 1 above)
Comment (JacquesCarette) [reply src/Categories/Category/Construction/Kleisli.agda:61]: I missed the `public`! Oops.

**Review by JacquesCarette — APPROVED** [review]
